US07229999B2
5-(4-Chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-6-(1-methyl-cyclopropylmethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 1-methyl-cyclopropanemethanol, (4-chloro-phenyl)-boronic acid and cis-2-aminomethyl-1-cyclohexanol hydrochloride as starting materials to yield racemic 5-(4-chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-6-(1-methyl-cyclopropylmethoxy)-nicotinamide. MS (ISP) 429.5 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 1-methyl-cyclopropanemethanol | CC1(CC1)CO | C5H10O
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | cis-2-aminomethyl-1-cyclohexanol hydrochloride | Cl.NC[C@@H]1[C@@H](CCCC1)O
product | racemic 5-(4-chloro-phenyl)-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-6-(1-methyl-cyclopropylmethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2C(CCCC2)O)C1)OCC1(CC1)C | C24H29ClN2O3
